US07320986B2
4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,1′-biphenyl-4-ol
A mixture of 4′-bromo-biphenyl-4-ol (0.300 g, 1.20 mmol), bis(pinacolato)diboron (0.336 g, 1.32 mmol), PdCl2(dppf).CH2Cl2 (0.0293 g, 3%), dppf (0.0199 g, 3%), and KOAc (0.353 g, 3.60 mmol) in 1,4-dioxane (6 mL) was heated at 90° C. overnight. The reaction mixture was concentrated and the residue was extracted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated, and purified by flash chromatography eluted with hexane/EtOAc (1:1) to give 0.278 g (78%) of the desired product as white foam. MS (DCI/NH3) m/z: 296.1 (M+H)+; 1H NMR (300 MHz, CDCl3) δ ppm 1.27 (s, 4H), 1.36 (s, 8H), 6.90 (d, J=8.48 Hz, 2H), 7.53 (dd, J=12.72, 8.65 Hz, 4H), 7.85 (d, J=8.14 Hz, 2H).

reactant | 4′-bromo-biphenyl-4-ol | 1.20 mmol, 0.300 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | bis(pinacolato)diboron | 1.32 mmol, 0.336 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.0293 g | C(Cl)Cl | CH2Cl2
reactant | KOAc | 3.60 mmol, 0.353 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.0199 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,1′-biphenyl-4-ol | 0.278 g, 78% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)O)C | C18H21BO3
